US08609731B2
2-[(S)-6-(4-Methoxypiperidin-1-ylmethyl)-1,2,3,4-tetrahydronaphthalen-2-yl]-6-[(S)-1-(tetrahydrofuran-2-yl)methoxy]-3,4-dihydro-2H-isoquinolin-1-one
According to method F, 6-hydroxy-2-[(S)-6-(4-methoxypiperidin-1-ylmethyl)-1,2,3,4-tetrahydronaphthalen-2-yl]-3,4-dihydro-2H-isoquinolin-1-one was alkylated with methanesulfonic acid (S)-1-(tetrahydrofuran-2-yl)methyl ester. The product was thus obtained with the molecular weight of 504.68 (C31H40N2O4); MS (ESI): 505 (M+H+).

reactant | 6-hydroxy-2-[(S)-6-(4-methoxypiperidin-1-ylmethyl)-1,2,3,4-tetrahydronaphthalen-2-yl]-3,4-dihydro-2H-isoquinolin-1-one | OC=1C=C2CCN(C(C2=CC1)=O)[C@@H]1CC2=CC=C(C=C2CC1)CN1CCC(CC1)OC | C26H32N2O3
reactant | methanesulfonic acid (S)-1-(tetrahydrofuran-2-yl)methyl ester | O1[C@@H](CCC1)COS(=O)(=O)C | C6H12O4S
product | 2-[(S)-6-(4-Methoxypiperidin-1-ylmethyl)-1,2,3,4-tetrahydronaphthalen-2-yl]-6-[(S)-1-(tetrahydrofuran-2-yl)methoxy]-3,4-dihydro-2H-isoquinolin-1-one | COC1CCN(CC1)CC=1C=C2CC[C@@H](CC2=CC1)N1C(C2=CC=C(C=C2CC1)OC[C@H]1OCCC1)=O | C31H40N2O4
